US07888376B2
To an oven-dried round bottomed flask was added 2-methylfuran (0.5 mL, 5.58 mmol) in Et2O (4 mL) at −30° C. nBuLi (2.5 M in hexanes, 0.95 ml, 2.38 mmol, 1.17 eq) was added dropwise at −30° C. under N2. The reaction mixture was slowly warmed up to room temperature and stirred at room temperature overnight. To the resulting light tan solution, cooled at −40° C., was added an Et2O solution (5 mL) of 3-fluoro-5-trifluoromethyl-benzonitrile (1.05 g, 5.58 mmol), added dropwise. The resulting solution was stirred −50 to −10° C. for 3 h. Pretreated TMSCl (0.78 ml, 1.1 eq) was added dropwise at −78° C. The dry ice bath was removed, and the mixture was stirred at r.t. for 1.5 h. It was cooled back to −78° C., and benzylmagnesium chloride (2.7 ml, 5.4 mmol, 0.97 eq) was added dropwise. The resulting mixture was stirred at −78° C. for 30 min, and then at r.t. for 2 h. The reaction mixture was quenched by adding sat'd NH4Cl and 1N HCl, and stirred for 10 min. The resulting solution was extracted with EtOAc, washed with 1N NaOH, sat'd NaHCO3, H2O, brine, dried (MgSO4), filtered, and concentrated to dryness. The residue was purified by flash chromatography (silica gel, hexanes/EtOAc, 1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(5-methylfuran-2-yl)-2-phenylethanamine eluted with 15-30% EtOAc in hexanes) to give pure 1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(5-methylfuran-2-yl)-2-phenylethanamine as light brownish gum (1.1 g, yield: 71.4%). LC-MS ESI (10-90% MeOH in H2O with 0.1% TFA in a 4-min run), retention time=3.16 min, 347.13 (M−NH2+H); 1H NMR (400 MHz, CDCl3) δ ppm 7.42 (s, br, 1 H), 7.25 (d, J=10.0 Hz, 1 H), 7.14-7.04 (m, 4 H), 6.77-6.70 (m, 2 H), 5.97 (d, J=3.0 Hz, 1 H), 5.86-5.80 (m, 1 H), 3.41 (d, J=13.2 Hz, 1 H), 3.09 (d, J=13.2 Hz, 1 H), 2.21 (s, 3 H). 1H NMR (xx MHz, CDCl3) δ ppm −63.05 (CF3), −111.53 (F).

reactant | 2-methylfuran | 5.58 mmol, 0.5 mL | CC=1OC=CC1 | C5H6O
reactant | nBuLi | 2.38 mmol, 2.5 M, 0.95 ml, 1.17 eq | [Li]CCCC
reactant | 3-fluoro-5-trifluoromethyl-benzonitrile | 5.58 mmol, 1.05 g | FC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F4N
reactant | TMSCl | 0.78 ml, 1.1 eq | C[Si](C)(C)Cl | C3H9ClSi
reactant | benzylmagnesium chloride | 5.4 mmol, 2.7 ml, 0.97 eq | C(C1=CC=CC=C1)[Mg]Cl
solvent | Et2O | 4 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 1-(3-fluoro-5-(trifluoromethyl)phenyl)-1-(5-methylfuran-2-yl)-2-phenylethanamine | FC=1C=C(C=C(C1)C(F)(F)F)C(CC1=CC=CC=C1)(N)C=1OC(=CC1)C | C20H17F4NO
